* NexRx Digital Twin - Full Receiver Chain
* Complete RF path from antenna to QSD outputs
*
* Signal path:
*   Antenna (50Ω) → T1 (50:200Ω) → Digital Atten (200Ω) →
*   Preselector (200Ω) → Hexafilar (200:3×22Ω) → 3× QSD
*
* Copyright 2026 NexRx Project - MIT License

.INCLUDE 'components.lib'
.INCLUDE 'qsd.lib'
.INCLUDE 'preselector_200.lib'
.INCLUDE 'hexafilar.lib'

*======================================================================
* NEXRX RECEIVER SUBCIRCUIT
*
* Inputs:
*   ANT_IN  - Antenna input (50 ohm)
*   GND     - Ground reference
*
* Controls:
*   ATTEN_3DB, ATTEN_6DB, ATTEN_12DB, ATTEN_24DB - Attenuator stages
*   L701_SHORT - Preselector inductor bypass
*   C701_EN..C711_EN - Preselector capacitor enables
*   Q0_PH0..3, Q1_PH0..3, Q2_PH0..5 - QSD phase clocks
*
* Outputs:
*   Q0_I, Q0_Q   - QSD0 I/Q
*   Q1_I, Q1_Q   - QSD1 I/Q
*   Q2_I, Q2_Q   - QSD2 I/Q
*======================================================================

.SUBCKT NEXRX_RECEIVER ANT_IN GND
+ ATTEN_3DB ATTEN_6DB ATTEN_12DB ATTEN_24DB
+ L701_SHORT
+ C701_EN C702_EN C703_EN C704_EN C705_EN
+ C706_EN C707_EN C708_EN C709_EN C710_EN C711_EN
+ Q0_PH0 Q0_PH1 Q0_PH2 Q0_PH3
+ Q1_PH0 Q1_PH1 Q1_PH2 Q1_PH3
+ Q2_PH0 Q2_PH1 Q2_PH2 Q2_PH3 Q2_PH4 Q2_PH5
+ Q0_I Q0_Q Q1_I Q1_Q Q2_I Q2_Q

*----------------------------------------------------------------------
* Stage 1: 50 to 200 ohm transformer
* Turns ratio N = 2 (voltage step-up), impedance ratio = 4
* Using ideal model for now
*----------------------------------------------------------------------
X_T1 ANT_IN GND NODE_200 GND XFMR_IDEAL NRATIO=2

*----------------------------------------------------------------------
* Stage 2: Digital Attenuator (200 ohm)
* Four switchable Pi-attenuator stages: 3dB, 6dB, 12dB, 24dB
* Each stage bypassed when control = 0
*----------------------------------------------------------------------

* 3dB stage
X_ATT_3DB NODE_200 ATT_3DB_OUT ATTEN_3DB GND ATTEN_PAD ATTEN_DB=3 Z0=200

* 6dB stage
X_ATT_6DB ATT_3DB_OUT ATT_6DB_OUT ATTEN_6DB GND ATTEN_PAD ATTEN_DB=6 Z0=200

* 12dB stage
X_ATT_12DB ATT_6DB_OUT ATT_12DB_OUT ATTEN_12DB GND ATTEN_PAD ATTEN_DB=12 Z0=200

* 24dB stage
X_ATT_24DB ATT_12DB_OUT ATTEN_OUT ATTEN_24DB GND ATTEN_PAD ATTEN_DB=24 Z0=200

*----------------------------------------------------------------------
* Stage 3: 200 ohm Preselector
*----------------------------------------------------------------------
X_PRESEL ATTEN_OUT PRESEL_OUT GND
+ L701_SHORT
+ C701_EN C702_EN C703_EN C704_EN C705_EN
+ C706_EN C707_EN C708_EN C709_EN C710_EN C711_EN
+ PRESELECTOR_200

*----------------------------------------------------------------------
* Stage 4: Hexafilar Transformer (200 ohm to 3x 22 ohm)
* 3:1 turns ratio per secondary, 9:1 impedance ratio
*----------------------------------------------------------------------
X_HEXA PRESEL_OUT GND RF_Q0 RF_Q1 RF_Q2 GND XFMR_HEXAFILAR

*----------------------------------------------------------------------
* Stage 5: Triple QSD (all identical, different clocking)
*----------------------------------------------------------------------
X_QSD0 RF_Q0 GND Q0_I Q0_Q Q0_PH0 Q0_PH1 Q0_PH2 Q0_PH3 QSD_4PHASE
X_QSD1 RF_Q1 GND Q1_I Q1_Q Q1_PH0 Q1_PH1 Q1_PH2 Q1_PH3 QSD_4PHASE
X_QSD2 RF_Q2 GND Q2_I Q2_Q Q2_PH0 Q2_PH1 Q2_PH2 Q2_PH3 Q2_PH4 Q2_PH5 QSD_6PHASE

.ENDS NEXRX_RECEIVER

*======================================================================
* TEST CIRCUIT - Full receiver at 14 MHz
*
* Configuration:
*   RF: 14.1 MHz, 100mV peak (~S9 signal)
*   Attenuator: All bypassed (0 dB)
*   Preselector: L702 only (220nH), C=583pF for 14 MHz
*   QSD0: 13.99 MHz LO (f - 10kHz)
*   QSD1: 14.01 MHz LO (f + 10kHz)
*   QSD2: 14.0 MHz LO (simplified, should be 6f for sextature)
*======================================================================

* RF Input - 14.1 MHz tone, 100mV peak
V_ANT V_ANT_SRC 0 SIN(0 0.1 14.1MEG)
R_ANT_SRC V_ANT_SRC ANT_IN 50

*----------------------------------------------------------------------
* Control signals
*----------------------------------------------------------------------

* Attenuator - all bypassed
V_ATT_3DB ATTEN_3DB 0 0
V_ATT_6DB ATTEN_6DB 0 0
V_ATT_12DB ATTEN_12DB 0 0
V_ATT_24DB ATTEN_24DB 0 0

* Preselector: L701 shorted (using L702=220nH only)
V_L701_SHORT L701_SHORT 0 3.3

* Capacitors: C707(560) + C702(15) + C701(8) = 583pF for 14 MHz with 220nH
V_C701 C701_EN 0 3.3
V_C702 C702_EN 0 3.3
V_C703 C703_EN 0 0
V_C704 C704_EN 0 0
V_C705 C705_EN 0 0
V_C706 C706_EN 0 0
V_C707 C707_EN 0 3.3
V_C708 C708_EN 0 0
V_C709 C709_EN 0 0
V_C710 C710_EN 0 0
V_C711 C711_EN 0 0

*----------------------------------------------------------------------
* QSD0 LO at 13.99 MHz (f - 10kHz)
*----------------------------------------------------------------------
V_Q0_PH0_S Q0_PH0_S 0 SIN(1.65 1.65 13.99MEG 0)
V_Q0_PH1_S Q0_PH1_S 0 SIN(1.65 1.65 13.99MEG 17.87n)
V_Q0_PH2_S Q0_PH2_S 0 SIN(1.65 1.65 13.99MEG 35.74n)
V_Q0_PH3_S Q0_PH3_S 0 SIN(1.65 1.65 13.99MEG 53.61n)

B_Q0_PH0 Q0_PH0 0 V='3.3 * (1 + tanh(100*(V(Q0_PH0_S) - 1.65))) / 2'
B_Q0_PH1 Q0_PH1 0 V='3.3 * (1 + tanh(100*(V(Q0_PH1_S) - 1.65))) / 2'
B_Q0_PH2 Q0_PH2 0 V='3.3 * (1 + tanh(100*(V(Q0_PH2_S) - 1.65))) / 2'
B_Q0_PH3 Q0_PH3 0 V='3.3 * (1 + tanh(100*(V(Q0_PH3_S) - 1.65))) / 2'

*----------------------------------------------------------------------
* QSD1 LO at 14.01 MHz (f + 10kHz)
*----------------------------------------------------------------------
V_Q1_PH0_S Q1_PH0_S 0 SIN(1.65 1.65 14.01MEG 0)
V_Q1_PH1_S Q1_PH1_S 0 SIN(1.65 1.65 14.01MEG 17.84n)
V_Q1_PH2_S Q1_PH2_S 0 SIN(1.65 1.65 14.01MEG 35.68n)
V_Q1_PH3_S Q1_PH3_S 0 SIN(1.65 1.65 14.01MEG 53.53n)

B_Q1_PH0 Q1_PH0 0 V='3.3 * (1 + tanh(100*(V(Q1_PH0_S) - 1.65))) / 2'
B_Q1_PH1 Q1_PH1 0 V='3.3 * (1 + tanh(100*(V(Q1_PH1_S) - 1.65))) / 2'
B_Q1_PH2 Q1_PH2 0 V='3.3 * (1 + tanh(100*(V(Q1_PH2_S) - 1.65))) / 2'
B_Q1_PH3 Q1_PH3 0 V='3.3 * (1 + tanh(100*(V(Q1_PH3_S) - 1.65))) / 2'

*----------------------------------------------------------------------
* QSD2 LO at 14 MHz (simplified for simulation - should be 84MHz for 6f)
*----------------------------------------------------------------------
V_Q2_PH0_S Q2_PH0_S 0 SIN(1.65 1.65 14MEG 0)
V_Q2_PH1_S Q2_PH1_S 0 SIN(1.65 1.65 14MEG 11.90n)
V_Q2_PH2_S Q2_PH2_S 0 SIN(1.65 1.65 14MEG 23.81n)
V_Q2_PH3_S Q2_PH3_S 0 SIN(1.65 1.65 14MEG 35.71n)
V_Q2_PH4_S Q2_PH4_S 0 SIN(1.65 1.65 14MEG 47.62n)
V_Q2_PH5_S Q2_PH5_S 0 SIN(1.65 1.65 14MEG 59.52n)

B_Q2_PH0 Q2_PH0 0 V='3.3 * (1 + tanh(100*(V(Q2_PH0_S) - 1.65))) / 2'
B_Q2_PH1 Q2_PH1 0 V='3.3 * (1 + tanh(100*(V(Q2_PH1_S) - 1.65))) / 2'
B_Q2_PH2 Q2_PH2 0 V='3.3 * (1 + tanh(100*(V(Q2_PH2_S) - 1.65))) / 2'
B_Q2_PH3 Q2_PH3 0 V='3.3 * (1 + tanh(100*(V(Q2_PH3_S) - 1.65))) / 2'
B_Q2_PH4 Q2_PH4 0 V='3.3 * (1 + tanh(100*(V(Q2_PH4_S) - 1.65))) / 2'
B_Q2_PH5 Q2_PH5 0 V='3.3 * (1 + tanh(100*(V(Q2_PH5_S) - 1.65))) / 2'

*----------------------------------------------------------------------
* Receiver instance
*----------------------------------------------------------------------
X_RX ANT_IN 0
+ ATTEN_3DB ATTEN_6DB ATTEN_12DB ATTEN_24DB
+ L701_SHORT
+ C701_EN C702_EN C703_EN C704_EN C705_EN
+ C706_EN C707_EN C708_EN C709_EN C710_EN C711_EN
+ Q0_PH0 Q0_PH1 Q0_PH2 Q0_PH3
+ Q1_PH0 Q1_PH1 Q1_PH2 Q1_PH3
+ Q2_PH0 Q2_PH1 Q2_PH2 Q2_PH3 Q2_PH4 Q2_PH5
+ Q0_I Q0_Q Q1_I Q1_Q Q2_I Q2_Q
+ NEXRX_RECEIVER

* Output loads (ADC input impedance)
R_LOAD_Q0_I Q0_I 0 10k
R_LOAD_Q0_Q Q0_Q 0 10k
R_LOAD_Q1_I Q1_I 0 10k
R_LOAD_Q1_Q Q1_Q 0 10k
R_LOAD_Q2_I Q2_I 0 10k
R_LOAD_Q2_Q Q2_Q 0 10k

* Analysis - 20us simulation
.TRAN 1n 20u

* Print intermediate nodes and I/Q outputs
.PRINT TRAN V(ANT_IN) V(X_RX:NODE_200) V(X_RX:ATTEN_OUT) V(X_RX:PRESEL_OUT) V(X_RX:RF_Q0) V(Q0_I) V(Q0_Q)

.END
